US07589116B2
A solution of ethyl 1-(3-bromophenyl)-5-methyl-1H-pyrazole-3-carboxylate (4.28 g, 17.8 mmol) in 2N NaOH (17.85 ml) was refluxed for 16 hours. The reaction was cooled to room temperature, neutralized with 10% citric acid and extracted with ethylacetate. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give 1-(3-bromophenyl)-1H-pyrazole-3-carboxylic acid (3.29 g, 89%).

reactant | ethyl 1-(3-bromophenyl)-5-methyl-1H-pyrazole-3-carboxylate | 17.8 mmol, 4.28 g | BrC=1C=C(C=CC1)N1N=C(C=C1C)C(=O)OCC | C13H13BrN2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | NaOH | 2N, 17.85 ml | [OH-].[Na+]
product | 1-(3-bromophenyl)-1H-pyrazole-3-carboxylic acid | 3.29 g, 89% | BrC=1C=C(C=CC1)N1N=C(C=C1)C(=O)O | C10H7BrN2O2
